US05144045
[[3-Azido-2-[(hexadecyloxy)methyl]propoxy]methyl]benzene
A mixture of 16.3 g of 2-[(hexadecyloxy)methyl]-3-(phenylmethoxy)-4-methylbenzenesulfonate-1-propanol, 9.22 g of sodium azide and 130 ml of N,N-dimethylformamide is stirred at 80° C. for 3.5 hours and then at room temperature overnight. The mixture is poured into water and extracted with ether. The ether layer is dried and the solvent removed. The residue is purified by chromatography, to give 8.9 g of the desired compound as an oil.

reactant | 2-[(hexadecyloxy)methyl]-3-(phenylmethoxy)-4-methylbenzenesulfonate 1-propanol | 16.3 g | C(CCCCCCCCCCCCCCC)OCC1=C(C=CC(=C1OCC1=CC=CC=C1)C)S(=O)(=O)[O-].C(CC)O
reactant | sodium azide | 9.22 g | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [[3-Azido-2-[(hexadecyloxy)methyl]propoxy]methyl]benzene | 8.9 g | N(=[N+]=[N-])CC(COCC1=CC=CC=C1)COCCCCCCCCCCCCCCCC | C27H47N3O2
